US07071332B2
2-Oxo-3-[5-(3-pyrrolidin-1-yl-propyl)-1H-indol-2-ylmethylene]-2,3-dihydro-1H-indole-5-carboxylic acid
A mixture of 5-carboxy-2-oxindole (35 mg, 0.2 mmol), 5-(3-pyrrolidin-1-yl-propyl)-1H-indole-2-carbaldehyde (51 mg, 0.2 mmol) and piperidine (0.2 mL) in ethanol (1 mL) was heated in a sealed tube at 80° C. for 6 hours. The reaction mixture was concentrated and the residue was dissolved in methanol, made acidic with 1 N hydrochloric acid until solid was formed. The precipitate was filtered, washed with 1 N hydrochloric acid, water, ethanol and dried to give the title compound.

reactant | 5-carboxy-2-oxindole | 0.2 mmol, 35 mg | C(=O)(O)C=1C=C2CC(NC2=CC1)=O | C9H7NO3
reactant | 5-(3-pyrrolidin-1-yl-propyl)-1H-indole-2-carbaldehyde | 0.2 mmol, 51 mg | N1(CCCC1)CCCC=1C=C2C=C(NC2=CC1)C=O | C16H20N2O
reactant | piperidine | 0.2 mL | N1CCCCC1 | C5H11N
solvent | ethanol | 1 mL | C(C)O | C2H6O
product | 2-Oxo-3-[5-(3-pyrrolidin-1-yl-propyl)-1H-indol-2-ylmethylene]-2,3-dihydro-1H-indole-5-carboxylic acid | O=C1NC2=CC=C(C=C2C1=CC=1NC2=CC=C(C=C2C1)CCCN1CCCC1)C(=O)O | C25H25N3O3
